US04229445
(c) 6-n-Propyl-3,4-methylenedioxy-benzaldoxime
21.3 g (0.533 mol) of sodium hydroxide in 27 ml of water were added to a suspension of 37.1 g (0.533 mol) of hydroxylamine hydrochloride in 500 ml of ethanol and a solution of 77.0 (0.4 mol) of 6-n-propyl-3,4-methylenedioxybenzaldehyde in 150 ml of ethanol was then added. After stirring for four hours under reflux, the reaction mixture was cooled, the solvent was stripped off and the residue was treated with water. The mixture was filtered and the residue was triturated with a mixture of petroleum ether and ether (6:1), again filtered off and dried in air. 72 g (87% of theory) of crystals of melting point 83° C. were obtained.

reactant | sodium hydroxide | 0.533 mol, 21.3 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 0.533 mol, 37.1 g | Cl.NO
reactant | 6-n-propyl-3,4-methylenedioxybenzaldehyde | C(CC)C1=CC2=C(C=C1C=O)OCO2 | C11H12O3
solvent | water | 27 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-n-Propyl-3,4-methylenedioxy-benzaldoxime | C(CC)C1=CC2=C(C=C1C=NO)OCO2 | C11H13NO3
